US07872026B2
c. Preparation of Ethyl 4′-{4-[isopropyl-(2,2,2-trifluoroacetyl)amino]butoxy}-3′-(5,5,8,8-tetramethyl-5,6,7,8-tetrahydronaphth-2-yl)biphenyl-4-carboxylate
1.6 g (39 mmol) of 60% sodium hydride are suspended in 200 ml of anhydrous DMF under an inert atmosphere, and the mixture is cooled to 0° C. 13.9 g (32 mmol) of ethyl 4′-hydroxy-3′-(5,5,8,8-tetramethyl-5,6,7,8-tetrahydronaphth-2-yl)biphenyl-4-carboxylate dissolved in 20 ml of DMF are added slowly. After 20 minutes, 11.3 g (39 mmol) of N-(4-bromobutyl)-2,2,2-trifluoro-N-isopropylacetamide are added. The reaction medium is then heated at 60° C. for 3 hours, and then cooled to room temperature and poured into 500 ml of saturated ammonium chloride solution and extracted with ethyl acetate. The organic phase is washed with water and dried, and the residue obtained is purified by chromatography on a column of silica (eluent: 9/1 heptane/ethyl acetate). A pasty white oil is obtained (m=21.2 g, yield=100%).

reactant | sodium hydride | 39 mmol, 1.6 g | [H-].[Na+]
reactant | ethyl 4′-hydroxy-3′-(5,5,8,8-tetramethyl-5,6,7,8-tetrahydronaphth-2-yl)biphenyl-4-carboxylate | 32 mmol, 13.9 g | OC1=C(C=C(C=C1)C1=CC=C(C=C1)C(=O)OCC)C1=CC=2C(CCC(C2C=C1)(C)C)(C)C | C29H32O3
reactant | N-(4-bromobutyl)-2,2,2-trifluoro-N-isopropylacetamide | 39 mmol, 11.3 g | BrCCCCN(C(C(F)(F)F)=O)C(C)C | C9H15BrF3NO
reactant | ammonium chloride | 500 ml | [Cl-].[NH4+]
solvent | DMF | 200 ml | CN(C)C=O | C3H7NO
solvent | DMF | 20 ml | CN(C)C=O | C3H7NO
product | Ethyl 4′-{4-[isopropyl-(2,2,2-trifluoroacetyl)amino]butoxy}-3′-(5,5,8,8-tetramethyl-5,6,7,8-tetrahydronaphth-2-yl)biphenyl-4-carboxylate | yield=100% | C(C)(C)N(CCCCOC1=C(C=C(C=C1)C1=CC=C(C=C1)C(=O)OCC)C1=CC=2C(CCC(C2C=C1)(C)C)(C)C)C(C(F)(F)F)=O | C38H46F3NO4
